Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ampicillin / Macrodantin / Hishtron / latex
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:20PM BLOOD ___ 
___ Plt ___
___ 12:20PM BLOOD ___ 
___ Im ___ 
___
___ 12:20PM BLOOD ___ ___
___ 12:20PM BLOOD ___ 
___

DISCHARGE LABS:
===============
___ 04:34AM BLOOD ___ 
___
___ 04:34AM BLOOD ___ 
___ Plt ___

RELEVANT IMAGING:
=================
___  UNILAT LOWER EXT VEINS LEFT 
1. Deep venous thrombosis within the left common femoral and 
femoral veins 
which demonstrates some color Doppler flow, likely reflecting 
nonocclusive 
thrombus. 
2. Deep venous thrombosis within the left popliteal, posterior 
tibial, and one  out of the two peroneal veins with minimal 
color Doppler flow, concerning for  occlusive thrombus. 
  

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
___ w/ Hx provoked (___) DVT ___ years ago, Right hand 
surgery 1 week prior p/w LLE DVT. She was started on a heparin 
drip with transition to apixaban to complete at least a ___CUTE ISSUES:
===============
#Left ___ DVT: US findings with occlusive thrombus of popliteal,
posterior tibial and one of two peroneal veins. AC with heparin
gtt, with plans to switch to DOAC with vascular surgery and hand
surgery approval. Vascular surgery recommended no thrombectomy 
at this time. Duration of AC is under question if this was a
truly provoked DVT. Recent hand surgery is a minor procedure 
that
is unlikely to be the precipitant. Has a large clot burden that
is unlikely to have developed in the 5 days since her surgery.
History of distant provoked DVT after ___ also in the LLE
likely increases recurrence risk given change of venous
architecture however, has been ___ years without AC that pt has
not had additional DVTs. No recent immobilization, plane travel
to ___ however patient is quite active at baseline. We would
recommend 6 months of apixaban with consideration of continuing
indefinitely. She will be discharged on apixaban 10mg BID for 7 
days then 5mg BID for at least 6 months (end date ___ with 
considerations to extend indefinitely per her outpatient 
provider. For pain, she will be on Tylenol 1g q8H in addition to 
her home oxycodone 5mg as needed.

#Right DRUJ arthrodesis surgery ___: 
She was seen by orthopedic hand surgery and her surgical 
incision wound was evaluated daily. On day of discharge, 
surgical site appeared to be healing well without signs of 
bleeding after being anticoagulated. Pain control as above.

#Hyperkalemia, resolved
On admission, K 5.7 in a hemolyzed sample; EKG reassuring 
without T wave changes. Recheck of K 4.1, likely spurious error. 


CHRONIC ISSUES:
===============
# Depression: continued home escitalopram.

# Insomnia: continued home trazodone. 

TRANSITIONAL ISSUES: 
====================
[] started on apixaban ___, plan for 6 months, consider 
extending indefinitely due to question of provoked vs. 
unprovoked event (please see discussion above)
[] hypercoagulability workup ___ (in OMR) negative for 
Factor V, prothrombin, protein C&S, ___ IgM 
borderline high 13.9 [normal ___, consider further workup of 
cardiolipin

====================
#CODE: Full code (presumed)
#CONTACT: Name of health care proxy: ___ 
___: husband 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. TraZODone 25 mg PO QHS 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 6 Days  
2.  Apixaban 5 mg PO BID 
please start after finishing 7 days of apixaban 10mg twice a day 
  
3.  Escitalopram Oxalate 5 mg PO DAILY  
4.  TraZODone 25 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Deep venous thromboses

SECONDARY DIAGNOSIS
===================
Right DRUJ arthrodesis surgery ___
Depression
Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were having calf pain and swelling and were found to have 
blood clots in your leg veins

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You were started on blood thinners to treat your blood clots
- You were seen by our vascular surgeons who did not think they 
needed to perform a procedure to remove the blood clots
- You were seen by our orthopedic hand surgeons who checked your 
right hand surgical wound  to make sure there was not additional 
bleeding after starting blood thinners

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- You will be starting a new medication called apixaban 
(Eliquis), please take apixaban 10mg twice a day for 7 days 
total, then apixaban 5mg twice a day for at least 6 months until 
advised by your primary care provider
- ___ continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___